US06881755B2
Taurine (1 g; 8 mmol) was dissolved in 2N NaOH (4.3 mL) and, after cooling on ice/water bath, 4N NaOH (2.14 mL) and a solution of benzyloxycarbonyl chloride (3.27 mL; 8 mmol) in toluene (3 mL) were dropped at same time. After the additions, the mixture was left stirring at T=0-5° C. for 1 h. The reaction was quenched by adding diethyl ether. The mixture was debated and the phases were separated. The aqueous one was cooled to 0-5° C. and 37% HCl was added to pH=2. The acidic phase was extracted with ethyl acetate (3×10 mL) and the collected organic extracts were washed with water (2×15 mL) and brine (15 mL), dried over Na2SO4 and evaporated under vacuum to give 2-(N-benzyloxycarbonylamino)ethanesulfonic acid as crude product purified by trituration in diethyl ether to give the pure product as white solid (1.46 g; 5.64 mmol Yield=70.5%)

reactant | Taurine | 8 mmol, 1 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | benzyloxycarbonyl chloride | 8 mmol, 3.27 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | NaOH | 2N, 4.3 mL | [OH-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 4N, 2.14 mL | [OH-].[Na+]
product | 2-(N-benzyloxycarbonylamino)ethanesulfonic acid | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)O | C10H13NO5S
